US07855201B2
Step 2: methyl 5-methoxynicotinate
A mixture of 0.5 g of methyl 5-hydroxynicotinate, 1.2 g (2 equiv) of phenyltrimethylammonium chloride, 4.8 g (3 equiv) of cesium carbonate, and 5 mL of anhydrous acetonitrile was heated to 80° C. for 6 h, cooled, filtered and concentrated under reduced pressure. The residue was taken up in 25 mL of ethyl acetate, filtered and concentrated. Purification by flash chromatography (0-50% ethyl acetate in hexane) gave the product as white crystalline solid: MS (m+1)=168.1; 1H NMR (400 MHz, CDCl3) 8.72 (s, 1H), 8.4 (s, 1H), 7.67 (s, 1H), 3.83 (s, 3H), 3.82 (s, 3H).

reactant | methyl 5-hydroxynicotinate | 0.5 g | OC=1C=NC=C(C(=O)OC)C1 | C7H7NO3
reactant | cesium carbonate | 4.8 g, 3 equiv | C([O-])([O-])=O.[Cs+].[Cs+]
catalyst | phenyltrimethylammonium chloride | 1.2 g, 2 equiv | [Cl-].C1(=CC=CC=C1)[N+](C)(C)C
solvent | acetonitrile | 5 mL | C(C)#N | C2H3N
product | methyl 5-methoxynicotinate | COC=1C=NC=C(C(=O)OC)C1 | C8H9NO3
